* Ideal Buck Converter (Averaged Model)
* Pins: Vin+ Vin- Vout+ Vout-
* Parameters:
*   VIN_MIN  = minimum input voltage
*   VIN_MAX  = maximum input voltage
*   VOUT     = regulated output voltage
*   IOUT_MAX = max output current

.SUBCKT BUCK_IDEAL VINP VINN VOUTP VOUTN
+ PARAMS: VIN_MIN=6 VIN_MAX=40 VOUT=5 IOUT_MAX=2

* Measure input voltage
E_VIN VIN_MEAS 0 VALUE = { V(VINP, VINN) }

* Enable only if input voltage is within range
E_EN EN 0 VALUE = { (V(VIN_MEAS) > VIN_MIN) && (V(VIN_MEAS) < VIN_MAX) }

* Ideal regulated output voltage
E_VOUT VREG 0 VALUE = { VOUT * V(EN) }

* Series output resistance for current limiting
R_LIMIT VREG VOUTP { VOUT / IOUT_MAX }

* Output reference
R_GND VOUTN 0 1u

.ENDS BUCK_IDEAL
